US04647573
(1) Methyl 3-pentylamino-3-oxopropionate
Dimethyl malonate (3.2 g, 24 mmol) and n-amylamine (2.1 g, 24 mmol) were mixed at room temperature. After stirring one hour solid began to precipitate. Diisopropyl ether (10 ml) was added and the mixture was left overnight at room temperature. The reaction mixture was concentrated in vacuo. The residue was chromatographed on silica gel (100 g, Baker for flash chromatography), eluting with CH2Cl2 and 2% MeOH in CH2Cl2 to give the title compound as an oil (1.97 g, 44%).

reactant | Dimethyl malonate | 24 mmol, 3.2 g | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | n-amylamine | 24 mmol, 2.1 g | CCCCCN | C5H13N
product | Methyl 3-pentylamino-3-oxopropionate | 1.97 g, 44% | C(CCCC)NC(CC(=O)OC)=O | C9H17NO3
